US07074819B2
To a suspension of LAH (0.4 g, 11 mmol) in tetrahydrofuran (20 ml) was added dropwise at 0° C. methyl 5,5-dimethoxyvalerate (3.5 g, 20 mmol) dissolved in tetrahydrofuran (30 ml), which was then stirred for 2 hours. After the reaction was completed, the mixture was poured into ice-water (50 ml) and then extracted with ether. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate-2:1) to give 5,5-dimethoxypentanol (1.02 g, yield 34%). Methanesulfonylchloride (3.2 g, 28 mmol) and triethylamine (3.0 g, 30 mmol) dissolved in dichloromethane (50 ml) were added thereto, and the mixture was stirred at room temperature for 1 hour. After the reaction was completed, the reaction mixture was poured into water and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crude product (2.36 g). While, 4,4,5,5,5-pentafluoropentyl thioacetate (5.7 g, 24 mmol) prepared in Step 1 was dissolved in methanol (10 ml), sodium methoxide (23 mg, 23 mmol, 11.0 mol/l) was added thereto, and the resulting mixture was stirred at room temperature for 1 hour. To this solution was added dropwise the crude product prepared above (0.90 g) dissolved in tetrahydrofuran (10 ml), which was then stirred at room temperature for 5 hours. After the reaction was completed, the reaction mixture was poured into water and extracted with ether. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=20:1) to give 5,5-dimethoxy-1-(4,4,5,5,5-pentafluoropentylthio)pentane (460 mg).

reactant | LAH | 11 mmol, 0.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 5,5-dimethoxyvalerate | 20 mmol, 3.5 g | COC(CCCC(=O)OC)OC | C8H16O4
reactant | n-hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5,5-dimethoxypentanol | 1.02 g, yield 34% | COC(CCCCO)OC | C7H16O3
